US07399759B2
4-Methyl-2-pyridinecarbaldehyde
Diisobutyl aluminium hydride in toluene (1.5 M, 43.5 ml, 65 mmol) was added dropwise to a solution of 2-cyano-4-methylpyridine (7.0 g, 59 mmol) in dichloromethane (180 ml) at −78° C., and the mixture was stirred at the same temperature for 2 hrs. The reaction mixture was combined with concentrated hydrochloric acid (28 ml) and water (112 ml), and the water layer and the organic layer were separated. The organic layer was extracted with 2 N hydrochloric acid. The water layer was combined, neutralized with sodium hydrogen carbonate and extracted with diethyl ether. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the titled compound (2.7 g, 37%).

reactant | Diisobutyl aluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 65 mmol, 1.5 M, 43.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-cyano-4-methylpyridine | 59 mmol, 7.0 g | C(#N)C1=NC=CC(=C1)C | C7H6N2
reactant | hydrochloric acid | 28 ml | Cl | ClH
reactant | water | 112 ml | O | H2O
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | 4-Methyl-2-pyridinecarbaldehyde | 2.7 g, 37% | CC1=CC(=NC=C1)C=O | C7H7NO
